US05811428
ETHYL 2-CHLORO-4-METHYLPYRIMIDINE-5-CARBOXYLATE
A solution of ethyl 2-hydroxy-4-methylpyrimidine-5-carboxylate (5 g, 27.5 mmol) and POCl3 (84 g, 550 mmol) was heated at reflux under N2 for 1 h. The reaction was cooled and concentrated. The residue was partitioned between CHCl3 and H2O and the organic layer was dried (Na2SO4), filtered, and concentrated to yield the title compound in a yield of 27% (1.5 g); 1HNMR (CDCl3) δ 9.04 (s, 1H), 4.42 (q, 2H), 2.85 (s, 3H), 1.43 (t, 3H).

reactant | ethyl 2-hydroxy-4-methylpyrimidine-5-carboxylate | 27.5 mmol, 5 g | OC1=NC=C(C(=N1)C)C(=O)OCC | C8H10N2O3
reactant | POCl3 | 550 mmol, 84 g | O=P(Cl)(Cl)Cl | Cl3OP
product | ETHYL 2-CHLORO-4-METHYLPYRIMIDINE-5-CARBOXYLATE | yield of 27% | ClC1=NC=C(C(=N1)C)C(=O)OCC | C8H9ClN2O2
